US04826833
(i) 3-Allyloxy-2-hydroxymethylpyridine
To a sodium methoxide, methanol mixture made from 1.43 g (62 mmole) sodium metal and 100 ml methanol was added 5.9 g (31 mmole) 3-hydroxy-2-hydroxymethylpyridine and the methanol removed in vacuo. The resulting residue was dissolved in 80 ml dimethylsulfoxide (DMSO) and 3.0 ml (34.7 mmole) allyl bromide in 20 ml DMSO was added over 20 minutes at room temperature. The mixture was stirred for two hours, the DMSO distilled in vacuo and the residue partitioned betwen chloroform/water. The aqueous phase was adjusted to pH 7.5 and extracted three times with chloroform. The combined organic layers were washed with water, brine, dried (Na2SO4) and concentrated to give 3.48 g (68%) of the desired ether.

reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 62 mmole, 1.43 g | [Na] | Na
reactant | 3-hydroxy-2-hydroxymethylpyridine | 31 mmole, 5.9 g | OC=1C(=NC=CC1)CO | C6H7NO2
reactant | allyl bromide | 34.7 mmole, 3.0 ml | C(C=C)Br | C3H5Br
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | methanol | 100 ml | CO | CH4O
product | 3-Allyloxy-2-hydroxymethylpyridine | C(C=C)OC=1C(=NC=CC1)CO | C9H11NO2
